US09023840B2
Step 1: 4-bromo-3-fluoro-N-isopropylbenzamide
2-Propanamine (1.2 mL, 14 mmol) was added to a mixture of 4-bromo-3-fluorobenzoic acid (2.09 g, 9.54 mmol, Alfa Aesar: Cat. #B25475) in methylene chloride (52.2 mL, 815 mmol), followed by benzotriazol-1-yloxytris(dimethylamino)-phosphonium hexafluorophosphate (4.6 g, 10. mmol) and N,N-diisopropylethylamine (3.3 mL, 19 mmol). The reaction mixture was stirred at room temperature overnight. The reaction mixture was worked up with aqueous NaHCO3, and extracted with dichloromethylene (3×20 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column with ethyl acetate in hexanes (0-20%) to afford the desired product (2.28 g, 91.8%). LCMS (M+H)+: m/z=260.0/262.0.

reactant | 2-Propanamine | 14 mmol, 1.2 mL | CC(C)N | C3H9N
reactant | 4-bromo-3-fluorobenzoic acid | 9.54 mmol, 2.09 g | BrC1=C(C=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | methylene chloride | 815 mmol, 52.2 mL | C(Cl)Cl | CH2Cl2
reactant | benzotriazol-1-yloxytris(dimethylamino)-phosphonium hexafluorophosphate | 4.6 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-diisopropylethylamine | 19 mmol, 3.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 4-bromo-3-fluoro-N-isopropylbenzamide | 2.28 g, 91.8% | BrC1=C(C=C(C(=O)NC(C)C)C=C1)F | C10H11BrFNO
